US07799822B2
4-(piperazin-1-yl)-N-(pyrimidin-4-yl)benzenesulfonamide
Synthesized according to general procedure 4. The reaction was set up with 1.6 mmol 4-bromo-N-(pyrimidin-4-yl)benzenesulfonamide, 16.0 mmol piperazine, 0.12 mmol Pd2(dba)3, 0.15 mmol of 2-(di-t-butylphosphino)biphenyl, 10 mmol of NaO-tBu and 12 mL toluene. For the purification, 10% MeOH in CH2Cl2 without the addition of triethylamine was used as a solvent system. Yield: 430 mg (84%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=320.2; tR=0.42 min.

reactant | 4-bromo-N-(pyrimidin-4-yl)benzenesulfonamide | 1.6 mmol | BrC1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC=C1 | C10H8BrN3O2S
reactant | piperazine | 16.0 mmol | N1CCNCC1 | C4H10N2
reactant | 2-(di-t-butylphosphino)biphenyl | 0.15 mmol | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | NaO-tBu | 10 mmol | O([Na])C(C)(C)C
catalyst | Pd2(dba)3 | 0.12 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(piperazin-1-yl)-N-(pyrimidin-4-yl)benzenesulfonamide | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC=C1 | C14H17N5O2S
